US04435397
4-Hydroxy-1-indene is prepared starting from 4-hydroxyindanone via 1,4-indanediol, 4-acetoxy-1-indanol and 4-acetoxy-1-indene in this order. The resulting 4-hydroxy-1-indene is allowed to react with epichlorohydrin in an aqueous solution of sodium hydroxide to give 4-(2,3-epoxypropoxy)indene. [cf. Yakugaku Zasshi 92, 1358 (1972)].

reactant | 4-hydroxyindanone | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 1,4-indanediol | C1(CCC=2C(=CC=CC12)O)O | C9H10O2
reactant | 4-acetoxy-1-indanol | C(C)(=O)OC1=C2CCC(C2=CC=C1)O | C11H12O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(2,3-epoxypropoxy)indene | O1C(COC2=C3C=CCC3=CC=C2)C1 | C12H12O2
